US07705023B2
(c) 5-(4-tert-Butylphenyl)-1-(4-(2-methyl-1-(pyrrolidin-1-yl)propan-2-yl-oxy)phenyl)indole-2-carboxylic acid
The title compound was prepared in accordance with Example 1 using 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester and 1-(2-(4-bromophenoxy)-2-methylpropyl)pyrrolidine.

reactant | 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)C(C)(C)C | C21H23NO2
reactant | 1-(2-(4-bromophenoxy)-2-methylpropyl)pyrrolidine | BrC1=CC=C(OC(CN2CCCC2)(C)C)C=C1 | C14H20BrNO
product | 5-(4-tert-Butylphenyl)-1-(4-(2-methyl-1-(pyrrolidin-1-yl)propan-2-yl-oxy)phenyl)indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OC(CN1CCCC1)(C)C)C(=O)O | C33H38N2O3
